US07442701B2
4-Trifluoromethylphenylacetonitrile (38.9 g, 210 mmol) was dissolved in dry methanol under nitrogen. Glyoxylic acid monohydrate (29 g, 315 mmol) was added followed by potassium carbonate (74 g, 535 mmol) and the resulting mixture was stirred for 15 hours at room temperature. The resulting solid was filtered, washed with dichloromethane and dried on the sinter to yield an off white solid which was added at room temperature to a solution of conc. sulfuric acid (30 ml) and formic acid (400 ml). The resulting mixture was then heated with stirring at 110° C. for 3 hours, allowed to cool to room temperature and concentrated under vacuum to ⅔ of the initial volume. It was then poured ice-water (1000 ml) and the resulting solid was filtered off, washed with water and dried on the sinter to yield 35 g of 3-(4-trifluoromethylphenyl)maleic anhydride as an off white solid. The crude anhydride (35 g) was suspended in water (290 ml) and glacial acetic acid (145 ml) was added followed by a solution of hydrazine hydrate (7 ml, 144 mmol) in water (21 ml). After thorough mixing conc. sulfuric acid was added in small portions with external water cooling and the mixture was heated while stirring at 125° C. for 3 hours. After cooling to room temperature the solid was filtered off, washed with water until the pH was neutral and dried on the sinter to yield a grey solid. Phosphorous oxychloride (200 ml, 2.1 mol) was added to the solid and the mixture was heated at 120° C. for 2 hours. After cooling to room temperature the homogeneous dark solution was concentrated under reduced pressure to half of its original volume and poured into water (800 ml) while stirring vigorously. The resulting solid was filtered off, washed with water and dried on the sinter to yield a grey solid which was recrystallised from toluene/iso-hexane (1:1) to yield the title compound as a yellow solid (8.2 g, 13%).

reactant | 4-Trifluoromethylphenylacetonitrile | 210 mmol, 38.9 g | FC(C1=CC=C(C=C1)CC#N)(F)F | C9H6F3N
reactant | Glyoxylic acid monohydrate | 315 mmol, 29 g | O.C(C=O)(=O)O
reactant | potassium carbonate | 535 mmol, 74 g | C([O-])([O-])=O.[K+].[K+]
reactant | sulfuric acid | 30 ml | S(O)(O)(=O)=O | H2O4S
solvent | methanol | CO | CH4O
solvent | formic acid | 400 ml | C(=O)O | CH2O2
product | 3-(4-trifluoromethylphenyl)maleic anhydride | 35 g | FC(C1=CC=C(C=C1)/C/1=C/C(=O)OC1=O)(F)F | C11H5F3O3
